US07384967B2
2-{2-[3-(2-Isobutoxy-4-methyl-phenyl)-ureido]-thiazol-4-yl}-N-(2-methoxy-ethyl}-acetamide (130 mg, 62%) was prepared from {2-[3-(2-isobutoxy-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid (181 mg, 0.5 mmol) and 2-methoxyethylamine following the general procedure K.

reactant | {2-[3-(2-isobutoxy-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | 0.5 mmol, 181 mg | C(C(C)C)OC1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CC(=O)O)=O | C17H21N3O4S
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 2-{2-[3-(2-Isobutoxy-4-methyl-phenyl)-ureido]-thiazol-4-yl}-N-(2-methoxy-ethyl}-acetamide | 130 mg, 62% | C(C(C)C)OC1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CC(=O)NCCOC)=O | C20H28N4O4S
